US07705025B2
4-(4-Pyridin-3-yl-thiazol-2-yl)-benzoic acid ethyl ester
4-Thiocarbamoyl-benzoic acid ethyl ester (CAS 78950-31-9) (0.4 g, 1.91 mmol), and 2-Bromo-1-pyridin-3-yl-ethanone; hydrobromide (CAS 17694-68-7) (0.537 g, 1.91 mmol) is placed in a 100 mL flask and dissolved in 20 mL of isopropyl alcohol. The mixture is heated to reflux for 1.5 hours and cooled and diluted with 40 mL of diethyl ether. The resulting solid is filtered and dissolved in a mixture of dichloromethane and saturated sodium bicarbonate solution. The organics are separated, dried over sodium sulfate, filtered and concentrated to provide 0.565 g of the titled compound. MS (m/e) 311.1 (M+1)

reactant | 4-Thiocarbamoyl-benzoic acid ethyl ester | 1.91 mmol, 0.4 g | C(C)OC(C1=CC=C(C=C1)C(N)=S)=O | C10H11NO2S
reactant | 2-Bromo-1-pyridin-3-yl-ethanone | BrCC(=O)C=1C=NC=CC1 | C7H6BrNO
reactant | hydrobromide | 1.91 mmol, 0.537 g | Br | BrH
solvent | isopropyl alcohol | 20 mL | C(C)(C)O | C3H8O
solvent | diethyl ether | 40 mL | C(C)OCC | C4H10O
product | 4-(4-Pyridin-3-yl-thiazol-2-yl)-benzoic acid ethyl ester | 0.565 g | C(C)OC(C1=CC=C(C=C1)C=1SC=C(N1)C=1C=NC=CC1)=O | C17H14N2O2S
